*****************************************************************
* NXP BUK7Y15-60E
*
* Polarity N-Channel
* Ratings 60V/1.500000E-002OHMS/52.9846648695024A
*
* Date Created Wed Feb 06 04:31:00 2013
*
*****************************************************************
* Model Generated by Transim Technology
*           Copyright(c) 2004
*         All Rights Reserved
*    UNPUBLISHED LICENSED SOFTWARE
*           www.transim.com
*
* Contains Proprietary Information Which
* is The Property of Transim or it's licensees.
*
* Commercial Use or Resale Restricted by
* Transim License Agreement.
*
*****************************************************************

.SUBCKT BUK7Y15-60E DRAIN GATE SOURCE

LD DRAIN 5 1e-11
RLD2 DRAIN 5 0.0251327412287184
RLD1 5 4 3e-06
LG GATE 1 7.81292696075128e-10
RLG GATE 1 1.96360271543439
LS SOURCE 8 5.3e-10
RLS2 SOURCE 8 1.33203528512207
RLS1 8 7 0.0002

RDS 7 4 60000000 TC=-0.005

RS 6 7 0.0001

RD 3 4 0.00715476015819098 TC=0.004882950165973,1.55321239537918E-05
RBD 9 4 0.00167613775088405 TC=0.004882950165973,1.55321239537918E-05
DBD 7 9 DBD

M1 3 2 6 6 MINT

RGS 2 6 200000000
CGS 2 6 1.14229308536828e-09
RG 1 2 1.55663376181753

* CGD
C11    11   12   1E-12
V11    11   0   0Vdc
G11    3 2 VALUE { V(13, 0)*I(V11) }
E11    12   0  3 2  1
E12    13   0  TABLE {V(12)}
+ -20	1349.8
+ -16	1348.9
+ -10	1346.22
+ -5	1331.59
+ -4	1306.01
+ -3	1316.02
+ -2	1130.36
+ -1	910.157
+ -0.5	741.17
+ -0.2	603.764
+ -0.1	599.947
+ 0	489.78816
+ 0.1	360.92508
+ 0.2	360.46564
+ 0.5	302.5784
+ 1	261.49636
+ 2	214.60136
+ 3	191.38196
+ 4	177.7832
+ 5	168.73748
+ 6	162.25476
+ 8	153.20192
+ 10	146.76244
+ 12	141.65448
+ 15	135.50704
+ 16	133.66
+ 20	127.7128
+ 30	117.3714
+ 40	111.02348
+ 48	107.64896



.MODEL MINT NMOS(Vto=3.65498360021102 Kp=50 Nfs=810000000000 Eta=0
+ Level=3 L=1e-4 W=1e-4 Gamma=0 Phi=0.6 Is=1e-24
+ Js=0 Pb=0.8 Cj=0 Cjsw=0 Cgso=0 Cgdo=0 Cgbo=0
+ Tox=1e-07 Xj=0
+ U0=600 Vmax=1000)

.MODEL DBD D(Bv=66 Ibv=2.500000E-004 Rs=1E-6 Is=2.19763503013574e-13
+ N=1 M=0.6 VJ=0.5 Fc=0.5 Cjo=6.7910888e-10 Tt=1.472e-08)

.ENDS

